US08431563B2
A 20 mL vial was charged with (4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl methanesulfonate (75 mg, 0.142 mmol), (S)-3-methylmorpholine (28.7 mg, 0.284 mmol Sigma-Aldrich, St. Louis, Mo.), potassium carbonate (39.2 mg, 0.284 mmol), and acetonitrile (4 mL). The vial was sealed and heated at 150° C. for 90 min in a microwave reactor (Emrys Optimizer Automated Microwave Synthesizer, Uppsala, Sweden). After this time, the mixture was filtered and the filtrate was concentrated. The crude material was purified via preparatory silica gel TLC (5% MeOH in CH2Cl2) to give 1,1,1-trifluoro-2-(4-(2-(((3S)-3-methyl-4-morpholinyl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol as a mixture of four isomers.

reactant | (4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl methanesulfonate | 0.142 mmol, 75 mg | CS(=O)(=O)OCC1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C19H23F3N2O6S3
reactant | (S)-3-methylmorpholine | 0.284 mmol, 28.7 mg | C[C@@H]1NCCOC1 | C5H11NO
reactant | potassium carbonate | 0.284 mmol, 39.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 1,1,1-trifluoro-2-(4-(2-(((3S)-3-methyl-4-morpholinyl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | FC(C(C)(O)C1=CC=C(C=C1)N1C(CN(CC1)S(=O)(=O)C=1SC=CC1)CN1[C@H](COCC1)C)(F)F | C23H30F3N3O4S2
